US04137272
2-Alkoxy-6-bromo-naphthalenes, especially 2-methoxy-6-bromo-naphthalene, are important starting compounds for the production of pharmaceutical products, especially synthetic estrogens, such as methallenestril (see The Merck Index, 8th Edition, (1968), page 669). For the production of 2-methoxy-6-bromo-naphthalene, 2-hydroxy-naphthalene-1-carboxylic acid was converted with diazomethane into 2-methoxy-naphthalene-1-carboxylic acid methyl ester, the latter was brominated with bromine in acetic acid to form 6-bromo-2-methoxy-naphthalene-1-carboxylic acid methyl ester, then the carboxylic acid methyl ester group was hydrolyzed, and the resulting 6-bromo-2-methoxy-naphthalene-1-carboxylic acid was decarboxylated to form 2-methoxy-6-bromo-naphthalene (see J. Chem. Soc. 1941, 687 + 688).

reactant | 2-methoxy-6-bromo-naphthalene | COC1=CC2=CC=C(C=C2C=C1)Br | C11H9BrO
reactant | methallenestril | CCC(C=1C=CC=2C=C(C=CC2C1)OC)C(C)(C)C(=O)O | C18H22O3
reactant | 2-hydroxy-naphthalene-1-carboxylic acid | OC1=C(C2=CC=CC=C2C=C1)C(=O)O | C11H8O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 2-methoxy-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=C(C=CC2=CC=CC=C12)OC | C13H12O3
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-bromo-2-methoxy-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=C(C=CC2=CC(=CC=C12)Br)OC | C13H11BrO3
